US07790884B2
By allowing tert-butyl 4-(methylamino)piperidine-1-carboxylate to react with EDCI hydrochloride, HOBt and 1-methyl-L-proline, tert-butyl 4-[methyl(1-methyl-L-prolyl)amino]piperidine-1-carboxylate was obtained. Then, trifluoroacetic acid was added thereto to obtain N,1-dimethyl-N-piperidin-4-yl-L-prolinamide.

reactant | tert-butyl 4-(methylamino)piperidine-1-carboxylate | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | EDCI hydrochloride | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-L-proline | CN1[C@H](C(=O)O)CCC1 | C6H11NO2
product | tert-butyl 4-[methyl(1-methyl-L-prolyl)amino]piperidine-1-carboxylate | CN(C1CCN(CC1)C(=O)OC(C)(C)C)C([C@H]1N(CCC1)C)=O | C17H31N3O3
